US08633186B2
2-((5-Methylisoxazol-3-yl)methoxy)-6-nitrobenzonitrile
Prepared as in Example 187c from (5-methylisoxazol-3-yl)methanol and 2,6-dinitrobenzonitrile in 86% yield as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 2.43 (d, J=0.8 Hz, 3H), 5.50 (s, 2H), 6.38 (d, J=0.4 Hz, 1H), 7.83 (dd, J=1.2, 8.4 Hz, 1H), 7.91-7.98 (m, 2H). MS 260 (MH+).

reactant | (5-methylisoxazol-3-yl)methanol | CC1=CC(=NO1)CO | C5H7NO2
reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
product | 2-((5-Methylisoxazol-3-yl)methoxy)-6-nitrobenzonitrile | 86% yield | CC1=CC(=NO1)COC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C12H9N3O4
